US05864039
1H-NMR (CDCl3,ppm) δ: 1.31-1.42(4 H,m), 1.51-1.63(4 H,m), 2.91(3 H,s), 3.30(2 H,t,J=7.9 Hz), 3.63(2 H,t,J=6.6 Hz), 6.64-6.70(3 H,m), 7.18-7.21(2 H,m) 6-(N-Methy-N-phenylamino)hexyl alcohol (1.1 g) and triphenylphosphine (1.3 g) were dissolved in methylene chloride (40 ml), and N-chlorosuccinylimide (0.71 g) was added, which was followed by stirring at room temperature for 1 hr 20 min. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 0.90 g of 6-(N-methy-N-phenylamino)hexyl chloride.

reactant | 6-(N-Methy-N-phenylamino)hexyl alcohol | 1.1 g | CN(C1=CC=CC=C1)CCCCCCO | C13H21NO
reactant | triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 6-(N-methy-N-phenylamino)hexyl chloride | 0.90 g | CN(C1=CC=CC=C1)CCCCCCCl | C13H20ClN
